US04996225
4-chloro-1,2-diphenyl-1-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]butane (RR,SS and RS,SR)
(RR, SS)-isomers: A mixture containing 43.2 g of (Z)-4-chloro-1,2-diphenyl-1-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-1-butene, 4 g of 5% palladium-on-charcoal and 800 ml of glacial acetic acid is stirred under hydrogen atmosphere at 75° C. until one equivalent of hydrogen is consumed, about 6 h. The solvent is evaporated and the evaporation residue is dissolved in toluene. The toluene solution is washed first with 2 M sodium hydroxide solution and then with water, after which the solution is dried over sodium sulfate. Finally the solvent is evaporated leaving the product as an oil at quantitative yield.

reactant | (Z)-4-chloro-1,2-diphenyl-1-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-1-butene | 43.2 g | ClCC/C(=C(/C1=CC=C(C=C1)OCCN1CCCC1)\C1=CC=CC=C1)/C1=CC=CC=C1 | C28H30ClNO
reactant | hydrogen | one equivalent | [H][H] | H2
catalyst | palladium-on-charcoal | 4 g | [Pd] | Pd
solvent | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-1,2-diphenyl-1-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]butane | quantitative yield | ClCCC(C(C1=CC=C(C=C1)OCCN1CCCC1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H32ClNO
